US05849759
1-(4-Cyanonaphth-1-yl)methyl-2-isopropyl-7-nitro-6-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)benzimidazole (12 g, 21 mmoL, 1 eq.) was dissolved in 400 mL dry pyridine and to this was added tin (II) chloride dihydrate (71 g, 315 mmoL, 15 eq.) which formed a finely divided suspension. The slurry was heated to 50° C. for 14 hours. The pyridine was stripped off, and the salts triturated in 1 L ethyl acetate. The salts were removed by filtration through Celite and the filtrate was concentrated to give a brown oil. Chromatography (3/2 ethyl acetate/hexanes) gave 7.6 g (67% yield) of 1-(4-cyanonaphth-1-yl)methyl-2-isopropyl-7-amino-6-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)benzimidazole as a tan foam.

reactant | 1-(4-Cyanonaphth-1-yl)methyl-2-isopropyl-7-nitro-6-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)benzimidazole | 12 g, 1 eq. | C(#N)C1=CC=C(C2=CC=CC=C12)CN1C(=NC2=C1C(=C(C=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)[N+](=O)[O-])C(C)C | C32H35N5O5
reactant | tin (II) chloride dihydrate | 71 g, 15 eq. | O.O.[Sn](Cl)Cl
solvent | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-cyanonaphth-1-yl)methyl-2-isopropyl-7-amino-6-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)benzimidazole | 7.6 g, 67% yield | C(#N)C1=CC=C(C2=CC=CC=C12)CN1C(=NC2=C1C(=C(C=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)N)C(C)C | C32H37N5O3
